US04816452
c. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-4-methylcyclohexyloxyimino)acetate
Ethyl 4-bromo-(Z)-2-(trans-4-methylcyclohexyloxyimino)-3-oxobutyrate (1.46 g) was treated with thiourea as described in Example 4d. Crystallisation from cyclohexane gave the title compound as a cream solid (0.80 g, 58%), m.p. 133°-5° C. [Found: M+, 311.1300, C14H21N3O3S requires M, 311.13O3 ]. νmax (KBr) 3447, 3119, 2940, 1723, 1616, 1538 cm-1, δH (CDCl3) 0.89 (3H, d), 0.98 (2H, m), 1.36 (6H, t+m), 1.72 (2H, m), 2.11 (2H, m), 4.16 (1H, m), 4.39 (2H, q), 5.44 (2H, s, exch. D2O) 6.68 (1H, s).

reactant | Ethyl 4-bromo-(Z)-2-(trans-4-methylcyclohexyloxyimino)-3-oxobutyrate | 1.46 g | BrCC(/C(/C(=O)OCC)=N/O[C@@H]1CC[C@H](CC1)C)=O | C13H20BrNO4
reactant | thiourea | NC(=S)N | CH4N2S
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-4-methylcyclohexyloxyimino)acetate | 0.80 g, 58% | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@@H]1CC[C@H](CC1)C | C14H21N3O3S
